US05246948
Synthesis of 2-amino-3-[2-(phthalimido)ethyl]-pyridine hydrochloride
In 5 ml of methanol was dissolved 237 mg (0.792 mmol) of 2-amino-3-[2-(phthalimido)ethyl]pyridine. The solution was treated with 5 ml (10 mmol) of a 2N solution of hydrogen chloride in methanol. The solvent was distilled off to obtain the desired powder. The powder thus obtained was washed with ether to obtain 233 mg of the desired compound (yield: 79.0%, pale yellow powder).

reactant | 2-amino-3-[2-(phthalimido)ethyl]pyridine | 0.792 mmol, 237 mg | NC1=NC=CC=C1CCN1C(C=2C(C1=O)=CC=CC2)=O | C15H13N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 2-amino-3-[2-(phthalimido)ethyl]-pyridine hydrochloride | 233 mg, yield: 79.0% | Cl.NC1=NC=CC=C1CCN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C15H13N3O2.ClH/c16-13-10(4-3-8-17-13)7-9-18-14(19)11-5-1-2-6-12(11)15(18)20;/h1-6,8H,7,9H2,(H2,16,17);1H
